US08729104B2
Step A: Preparation of ethyl 4-(cyclopropylcarbonyl)benzoate (i-3a)
Intermediate i-3a was prepared from 4-ethoxycarbonylphenyl zinc iodide and cyclopropanecarbonyl chloride following the above procedure as described for intermediate i-1a. m/z (ES) 219 (MH)+. 1HNMR (500 MHz, CDCl3): δ 8.17 (d, 2H, J=8.5 Hz), 8.08 (d, 2H, J=8.4 Hz), 4.44 (q, 2H, J=7.1 Hz), 2.71 (m, 1H), 1.45 (t, 3H, J=7.1 Hz), 1.31 (m, 2H), 1.13 (m, 2H).

reactant | 4-ethoxycarbonylphenyl zinc iodide | [I-].C(C)OC(=O)C1=CC=C(C=C1)[Zn+]
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | ethyl 4-(cyclopropylcarbonyl)benzoate | C1(CC1)C(=O)C1=CC=C(C(=O)OCC)C=C1 | C13H14O3
